US05559111
h) 2(R)-Isopropyl-3-(p-tert-butyl-phenyl)-propanol
With stirring at 0° C., a solution of 8.63 g of 3-[2(R)-isopropyl-3-(p-tert-butyl-phenyl)-propanoyl]-4(R)-benzyl-oxazolidin-2-one in 40 ml of tetrahydrofuran is added dropwise to a suspension of 2.41 g of LiAlH4 in 160 ml of tetrahydrofuran. The reaction mixture is stirred for a further 4 hours at 0° C. and then, at 0° C., 5 ml of ethyl acetate, 30 ml of a mixture of tetrahydrofuran/water=1:1 and then 80 ml of 2N sulfuric acid are added in succession thereto. The suspension is extracted with ethyl acetate and the extracts are concentrated by evaporation and purified by FC (700 g of silica gel, eluant: dichloromethane). The title compound is obtained: Rf (dichloromethane)=0.34; m.p.=49°-51° C.

reactant | 3-[2(R)-isopropyl-3-(p-tert-butyl-phenyl)-propanoyl]-4(R)-benzyl-oxazolidin-2-one | 8.63 g | C(C)(C)[C@H](C(=O)N1C(OC[C@H]1CC1=CC=CC=C1)=O)CC1=CC=C(C=C1)C(C)(C)C | C26H33NO3
reactant | LiAlH4 | 2.41 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
reactant | sulfuric acid | 2N, 80 ml | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 160 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran water | O1CCCC1.O
product | 2(R)-Isopropyl-3-(p-tert-butyl-phenyl)-propanol | C(C)(C)[C@H](CO)CC1=CC=C(C=C1)C(C)(C)C | C16H26O
